US05225578
Preparation of 2-(1-dodecenyl)-3-hydroxy-1,4-naphthoquinone naphthoquinone
Thus, by this reaction, 2-(1-dodecenyl)-3-hydroxy-1,4-naphthoquinone was prepared from 2-hydroxy-1,4-naphthoquinone in a yield of 93.3 mol %.

reactant | 2-(1-dodecenyl)-3-hydroxy-1,4-naphthoquinone | C(=CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C22H28O3
reactant | 2-hydroxy-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
product | 2-(1-dodecenyl)-3-hydroxy-1,4-naphthoquinone naphthoquinone | C1(C=CC(C2=CC=CC=C12)=O)=O.C(=CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | InChI=1S/C22H28O3.C10H6O2/c1-2-3-4-5-6-7-8-9-10-11-16-19-20(23)17-14-12-13-15-18(17)21(24)22(19)25;11-9-5-6-10(12)8-4-2-1-3-7(8)9/h11-16,25H,2-10H2,1H3;1-6H
